US05276028
4-chloro-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-imidazo-[1,5-a]quinoxaline
A ground mixture of 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline (3.76 g, 13 mmol) and phosphorus pentachloride (2.67 g, 13 mmol) in phosphorus oxychloride (10 ml) was stirred for 2 h at 150°-160° C. The resulting solution while still warm was poured into 200 ml of ice and stirred for 1 h. The precipitate was collected by filtration, rinsed with water and dried to give 3.4 g of the title compound, m.p. 140°-150° C. (dec.). The crude product obtained in this way was processed without further purification. (Compound 1).

reactant | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline | 13 mmol, 3.76 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(NC1=CC=CC=C21)=O | C15H11N5O2
reactant | phosphorus pentachloride | 13 mmol, 2.67 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-imidazo-[1,5-a]quinoxaline | 3.4 g | ClC=1C=2N(C3=CC=CC=C3N1)C=NC2C2=NOC(=N2)C2CC2 | C15H10ClN5O
